US05118781
2,2'-(1,3-Phenylene)bis[5-(4-hydroxyphenyl)-1,3,4-oxadiazole]
Into a 250 ml three neck round bottom flask equipped with a magnetic stirbar, thermometer, addition funnel, and glass stopper is placed 4-hydroxybenzoic hydrazide (6.0 g, 0.039 mol) and dry DMAc (90 ml). After the solid dissolves the solution is cooled to approximately 0° C. via an ice water bath. A solution of isophthaloyl chloride (4.0 g, 0.0195 mol) in dry DMAc (30 ml) is placed in the addition funnel. The isophthaloyl chloride solution is added dropwise over approximately one hour while maintaining the reaction temperature between 0° and 5° C. After the entire solution has been added, the ice bath is removed and the solution is allowed to warm to room temperature, stirring is continued for 16 hours. The DMAc solution is poured into ice/water to give a white precipitate which is collected by filtration and subsequently dried at 70° C. under vacuum. Yield 7.1 g (76%) of the intermediate dihydrazide, m.p. 298° C. (DTA). The intermediate dihydrazide (6.0 g) is placed in a vacuum oven and heated to 280° C. for approximately 4 hours to achieve cyclodehydration to the oxadiazole. The solid is pulverized and washed in hot ethanol to yield a yellow solid (4.3 g, 85%) m.p. greater than 400° C. The solid is used without further purification.

reactant | 4-hydroxybenzoic hydrazide | 0.039 mol, 6.0 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | isophthaloyl chloride | 0.0195 mol, 4.0 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
solvent | DMAc | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | DMAc | 90 ml | CC(=O)N(C)C | C4H9NO
product | 2,2'-(1,3-Phenylene)bis[5-(4-hydroxyphenyl)-1,3,4-oxadiazole] | 4.3 g, 85% | C1(=CC(=CC=C1)C=1OC(=NN1)C1=CC=C(C=C1)O)C=1OC(=NN1)C1=CC=C(C=C1)O | C22H14N4O4
